US06638929B2
To a solution of 4-benzyloxy-3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile (1.0 g, 3.7 mmol) in anhydrous tetrahydrofuran (10 mL) at −78° C. is added sodium bis(trimethylsilyl)amide (5.65 mL of a 1M solution in tetrahydrofuran, 5.6 mmol) over a period of 4 minutes, followed by the addition of 4,4′-dichlorodiphenyl disulfide in one portion. The reaction is stirred at −78° C. for 15 minutes and then at room temperature for one hour. The reaction is then diluted and extracted with ethyl acetate. The organic layer is collected and dried with sodium sulfate. After reducing in vacuo, the crude material is purified by flash chromatography using 4:1 hexanes/ethyl acetate. The clean fractions are combined, reduced and dried to yield 1.3 g of 4-benzyloxy-7-(4-chlorophenylsulfanyl)-3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile as an off-white solid, mp 114-115° C.

reactant | 4-benzyloxy-3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile | 3.7 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C2CC(C2=C1)C#N)OC | C17H15NO2
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4,4′-dichlorodiphenyl disulfide | C1=CC(=CC=C1SSC2=CC=C(C=C2)Cl)Cl | C12H8Cl2S2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-benzyloxy-7-(4-chlorophenylsulfanyl)-3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile | 1.3 g | C(C1=CC=CC=C1)OC1=C(C=C2CC(C2=C1)(C#N)SC1=CC=C(C=C1)Cl)OC | C23H18ClNO2S
